US08461153B2
1,3-Dibromo-2-(bromomethyl)benzene
A mixture of 2,6-dibromotoluene (22.9 g, 92 mmol), N-bromosuccinimide (NBS) (15 g, 84 mmol), CCl4 (250 mL) and benzoyl peroxide (0.03 eq) was stirred at 85° C. (hot oil bath temperature) for 16 h, cooled to RT, filtered, washed with aq. NaHSO3, dried (Na2SO4), filtered, and evaporated to give 29.5 g (yield of 98%) of title product as a white solid. This solid contained 10% unreacted starting material but was successfully used without further purification. 1H NMR (300 MHz, CDCl3) δ 4.81 (s, 2H), 7.01 (t, 1H), 7.53 (d, 2H).

reactant | 2,6-dibromotoluene | 92 mmol, 22.9 g | BrC1=C(C(=CC=C1)Br)C | C7H6Br2
reactant | N-bromosuccinimide | 84 mmol, 15 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.03 eq | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 250 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1,3-Dibromo-2-(bromomethyl)benzene | 29.5 g, yield of 98% | BrC1=C(C(=CC=C1)Br)CBr | C7H5Br3
